US04070382
Natural daunomycinone (14.7 mg) was taken up in anhydrous benzene (100 ml). Sea sand (1 g) was added and the mixture was stirred until all the daunomycinone went into solution. The reaction was stirred under nitrogen and anhydrous aluminum chloride (0.22 g) was added. The reaction gradually turned purple; stirring was continued at room temperature overnight. The reaction was worked up by pouring in aqueous oxalic acid (25 ml., 25%) and the layers mixed thoroughly until the color was discharged. The aqueous phase was extracted once with chloroform (10 ml) and the chloroform added to the benzene. The combined organic phases were washed once with water, dried over anhydrous sodium sulfate and concentrated to give (+)-carminomycinone, Rf = 0.16 (on silica gel, 3% methanol in methylene chloride, v/v). The mass spectrum showed 384 (M+, 45%), 366 (7%), 348 (100%), 341 (3%), 333 (21%), 323 (67%), 305 (19%), 295 (39%), 277 (16%), 249 (8%). The NMR (CDCl3) taken using Fourier-transform spectroscopy gave δ 13.47, 12.96, 12.17 (s, 1H ea); 7.14-7.25 (m, 3H), 2.43 (s, 3H), 2.27 (m, 2H); the vv spectrum showed maxma at 527, 512, 492, 480 and 466 nm.

reactant | daunomycinone | 14.7 mg | CC(=O)[C@@]1(CC=2C(=C(C3=C(C2O)C(=O)C4=CC=CC(=C4C3=O)OC)O)[C@H](C1)O)O | C21H18O8
reactant | aluminum chloride | 0.22 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | oxalic acid | 25 ml | C(C(=O)O)(=O)O | C2H2O4
product | (+)-carminomycinone | CC(=O)[C@]1(C[C@@H](C2=C(C3=C(C(=C2C1)O)C(=O)C4=C(C3=O)C(=CC=C4)O)O)O)O | C20H16O8
